US07692022B2
2,8-Dibenzyl-3-methoxy-6-phenyl-imidazo[1,2-a]pyrazine (Coelenterazine HH methyl ether).
To a stirred solution of 2,8-dibenzyl-6-phenyl-7H-imidazo[1,2-a]pyrazin-3-one (0.25 g, 0.6 mmol) in dry DMF (10 mL) at ambient temperature under argon was added diisopropylethylamine (1.1 mL, 6.0 mmol) all at once, followed by dropwise addition of methyl iodide (0.4 mL, 6.0 mmol). After stirring for 1 h the reaction was complete by TLC analysis. The reaction mixture was diluted with dichloromethane (75 mL) and washed twice with water. The organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated to provide a brown oil. The crude oil was purified by flash chromatography on silica gel (30 g) using dichloromethane as mobile phase. Appropriate fractions were pooled and evaporated to afford 200 mg (77%) of the desired compound.

reactant | 2,8-dibenzyl-6-phenyl-7H-imidazo[1,2-a]pyrazin-3-one | 0.6 mmol, 0.25 g | C(C1=CC=CC=C1)C1=NC=2N(C=C(NC2CC2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H21N3O
reactant | diisopropylethylamine | 6.0 mmol, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl iodide | 6.0 mmol, 0.4 mL | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 2,8-Dibenzyl-3-methoxy-6-phenyl-imidazo[1,2-a]pyrazine | 200 mg, 77% | C(C1=CC=CC=C1)C=1N=C2N(C=C(N=C2CC2=CC=CC=C2)C2=CC=CC=C2)C1OC | C27H23N3O
